US06939883B2
Step 5B 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-(2-methoxyethenyl)4-pyridone:
KHMDS (2.4 mmol, 4.8 mL of a 0.5 M solution in toluene) was added dropwise to a vigorously stirred suspension of (methoxymethyl)triphenylphosphonium chloride (771 mg, 2.25 mmol) in anhydrous THF (8 mL), at −78° C. under N2. The resulting orange suspension was stirred at −78° C. for 45 min. Then, a solution of 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-4-pyridone (534 mg, 1.50 mmol) in THF (8 mL) was added dropwise and the reaction was allowed to warm slowly to room temperature. After 1 h at room temperature, the reaction was quenched with an aqueous saturated solution of NaHCO3. The organics were extracted with EtOAc (50 mL), the organic layer was separated, washed with H2O and brine, dried over MgSO4, filtered and evaporated under vacuum. The crude residue was utilized in the next step. LRMS m/z 384.0 (M+−1), 386.0 (M++1).

reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 2.25 mmol, 771 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-4-pyridone | 1.50 mmol, 534 mg | FC1=C(CN2C(=C(C(C(=C2C)C=O)=O)Br)C)C(=CC=C1)F | C15H12BrF2NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-(2-methoxyethenyl)4-pyridone | FC1=C(CN2C(=C(C(C(=C2C)C=COC)=O)Br)C)C(=CC=C1)F | C17H16BrF2NO2
